US07538931B2
Huj=N-(6-Methylpyridin-2-ylmethyl)pyridin-2-amine
To a flask were added 3.7 g of 6-methyl-N-pyridin-2-ylpyridin-2-amine, 9.4 g of 2-bromopyridine, 2.0 g of sodium carbonate, 0.05 g of copper bronze, 0.01 g of potassium bromide, and 5 ml of mesytylene. After stirring under nitrogen at 160 C for 10 hours, the mixture was cooled to 22 C, and 35 ml of water was added and the product was extracted with 75 ml ethyl acetate. After washing twice with 30 ml of water, the solvent was removed, and the product was purified by silica gel chromatography using 75% ethyl acetate, 25% hexane, and 0.01% triethylamine resulting in 3.2 g of a yellow oil.

reactant | 6-methyl-N-pyridin-2-ylpyridin-2-amine | 3.7 g | CC1=CC=CC(=N1)NC1=NC=CC=C1 | C11H11N3
reactant | 2-bromopyridine | 9.4 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium carbonate | 2.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium bromide | 0.01 g | [Br-].[K+]
catalyst | copper bronze | 0.05 g | [Cu] | Cu
solvent | water | 35 ml | O | H2O
product | N-(6-Methylpyridin-2-ylmethyl)pyridin-2-amine | CC1=CC=CC(=N1)CNC1=NC=CC=C1 | C12H13N3
